US08133886B2
Step 10.1: 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid
A suspension of 6.56 g (40 mMol) 2-amino-4,6-dichloropyrimidine and 7.52 g (40 mMol) 6-hydroxy-1-naphthoic acid in 160 ml acetone and 80 ml 1 N aqueous NaOH is heated to 62° C. for 36 h. The mixture is cooled to rt, partially concentrated in vacuo and the residue poured into 1.6 l icewater. Under vigorous stirring, 20 ml 2 N HCl are added dropwise (pH≈4). After stirring the suspension for 30 min, the title compound is filtered off and washed with water; HPLC: tRet=12.8.

reactant | 2-amino-4,6-dichloropyrimidine | 40 mMol, 6.56 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 6-hydroxy-1-naphthoic acid | 40 mMol, 7.52 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
solvent | acetone | 160 ml | CC(=O)C | C3H6O
solvent | NaOH | 1 N, 80 ml | [OH-].[Na+]
product | 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | NC1=NC(=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O)Cl | C15H10ClN3O3
